US05124331
3,4-Dihydro-3-(2-chlorophenyl)-2-methyl-4-oxo-6-sulfamoylthieno[2,3-d]pyrimidine
In 200 ml of tetrahydrofuran was suspended 23 g of 3,4-dihydro-3-(2-chlorophenyl)-6-chlorosulfonyl-2-methyl-4-oxothieno[2,3-d]pyrimidine, and this suspension was poured onto 200 ml of ammonia water at one time. The mixture was stirred at room temperature for 40 minutes. The reaction mixture was concentrated, and water was added to the residue. The crystals were collected by suction-filtration to afford 15.8 g of the title compound, m.p. 251° C.

reactant | 3,4-dihydro-3-(2-chlorophenyl)-6-chlorosulfonyl-2-methyl-4-oxothieno[2,3-d]pyrimidine | 23 g | ClC1=C(C=CC=C1)N1C(=NC2=C(C1=O)C=C(S2)S(=O)(=O)Cl)C | C13H8Cl2N2O3S2
reactant | ammonia water | 200 ml | O.N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3,4-Dihydro-3-(2-chlorophenyl)-2-methyl-4-oxo-6-sulfamoylthieno[2,3-d]pyrimidine | 15.8 g | ClC1=C(C=CC=C1)N1C(=NC2=C(C1=O)C=C(S2)S(N)(=O)=O)C | C13H10ClN3O3S2
